US09056837B2
(b) 4-Methyl-N-(4-(2-(pyrrolidin-1-yl)ethyl)phenyl)-3-(4-(3-(trifluoromethyl)phenyl)pyrimidin-2-ylamino)benzamide
A mixture of 3-bromo-4-methyl-N-(4-(2-(pyrrolidin-1-yl)ethyl)phenyl)benzamide (59 mg, 0.13 mmol) and 4-(3-(trifluoromethyl)phenyl)pyrimidin-2-amine (31 mg, 0.13 mmol), KOBut (22 mg, 0.2 mmol), Pd2(dba)3 (4.6 mg, 0.005 mmol) and Xantphos (4.6 mg, 0.008 mmol) in a microwave reaction vessel was suspended in 1 mL of THF. The reaction mixture was heated in a microwave at 150° C. for 90 min. After cooling, the mixture was diluted with DMF, and then filtered with a 0.45 μm microfilter. The obtained filtrate was separated by a semi-preparative HPLC. Collected product fraction was lyophilized to give pure product as a while powder. MS (ESI+) m/z 546.1 [M+H]+.

reactant | 3-bromo-4-methyl-N-(4-(2-(pyrrolidin-1-yl)ethyl)phenyl)benzamide | 0.13 mmol, 59 mg | BrC=1C=C(C(=O)NC2=CC=C(C=C2)CCN2CCCC2)C=CC1C | C20H23BrN2O
reactant | 4-(3-(trifluoromethyl)phenyl)pyrimidin-2-amine | 0.13 mmol, 31 mg | FC(C=1C=C(C=CC1)C1=NC(=NC=C1)N)(F)F | C11H8F3N3
reactant | Xantphos | 0.008 mmol, 4.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Methyl-N-(4-(2-(pyrrolidin-1-yl)ethyl)phenyl)-3-(4-(3-(trifluoromethyl)phenyl)pyrimidin-2-ylamino)benzamide | CC1=C(C=C(C(=O)NC2=CC=C(C=C2)CCN2CCCC2)C=C1)NC1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C31H30F3N5O
